US05030654
3-{1-[(cis-4-Carboxy-cyclohexyl)carbamoyl]-cyclopentyl}-2-[2-(hydroxy)ethoxymethyl]propanoic acid
3-{1-[(cis-4-Carboxy-cyclohexyl)carbamoyl]-cyclopentyl}-2-[2-(methoxy)ethoxymethyl]propanoic acid (0.80 g, 2 mmole) was dissolved in dry dichloromethane (15 ml) and treated with trimethylsilyl iodide (1.4 ml, 10 mmole) at 0° C. under nitrogen. After 6 hours at 0° C., the reaction was poured into ice-cold dilute sodium hydrogen carbonate and washed with dichloromethane. The aqueous phase was acidified with concentrated hydrochloric acid and extracted with ethyl acetate (3×50 ml). The first extract contained starting material, the second and third extracts were combined, washed with dilute sodium thiosulphate, dried (Na2SO4) and evaporated to give an orange oil. The residue was azeotroped with dichloromethane and washed with dichloromethane to give the title compound as a glassy foam (0.22 g, 29%). Found: C,57.24; H,8.07; N,3.42. C19H31NO7. 0.1 CH2Cl2 0.25 H2O requires C,57.58; H,8.02; N,3.52%.

reactant | 3-{1-[(cis-4-Carboxy-cyclohexyl)carbamoyl]-cyclopentyl}-2-[2-(methoxy)ethoxymethyl]propanoic acid | 2 mmole, 0.80 g | C(=O)(O)[C@H]1CC[C@H](CC1)NC(=O)C1(CCCC1)CC(C(=O)O)COCCOC | C20H33NO7
reactant | trimethylsilyl iodide | 10 mmole, 1.4 ml | C[Si](C)(C)I | C3H9ISi
solvent | dichloromethane | 15 ml | ClCCl | CH2Cl2
product | 3-{1-[(cis-4-Carboxy-cyclohexyl)carbamoyl]-cyclopentyl}-2-[2-(hydroxy)ethoxymethyl]propanoic acid | 0.22 g, 29% | C(=O)(O)[C@H]1CC[C@H](CC1)NC(=O)C1(CCCC1)CC(C(=O)O)COCCO | C19H31NO7
